US06225311B1
A solution of 4-([4-2-butynyloxy)phenyl]sulfonyl}-morpholine-3-carboxylic acid, methyl ester (0.1 g, 0.28 mmol) in 2.4 mL of THF:methanol:water [4:1:1] was cooled in an ice bath and 2N LiOH (0.3 mL, 0.59 mmol) was added. The reaction was stirred at 0° C. for 30 minutes and at room temperature for 2 hours. After evaporating the solvent, the residue was diluted with ether and filtered. The solid was dissolved in water, neutralized with 1N HCl to pH˜3 and extracted with dichloromethane. The organic layer was washed with water and brine, dried over sodium sulfate, filtered and concentrated to give 0.06 g of 4-[4-(2-butynyloxy)phenyl]sulfonyl}-morpholine-3-carboxylic acid. Yield˜69.8%. mp 40-42° C. Electrospray Mass Spec 338.1(M−H)−.

reactant | morpholine-3-carboxylic acid, methyl ester | 0.28 mmol, 0.1 g | N1C(COCC1)C(=O)OC | C6H11NO3
reactant | methanol | CO | CH4O
reactant | water | O | H2O
reactant | LiOH | 0.59 mmol, 2N, 0.3 mL | [Li+].[OH-]
solvent | THF | 2.4 mL | C1CCOC1 | C4H8O
product | morpholine-3-carboxylic acid | Yield˜69.8% | N1C(COCC1)C(=O)O | C5H9NO3
